reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2][H:9])([H:6])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:10]>>[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8],32.899020583214906
[C:1]([O:5][C:4](=[C:2]=[O:3])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],76.94532112634579
[C:1](/[C:2](=[N:3]/[C:5](=[O:6])[H:15])[H:11])([H:7])([H:8])[H:9].[C:4]([H:10])([H:12])([H:13])[H:14]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],94.4092135943699
[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([n:6]1[n:2][c:3]([H:10])[n:4][n:5]1)([H:7])([H:8])[H:9],68.8188373403724
[C:1]([C:2][C:3]([C:4](=[O:5])[C:6]([H:10])([H:13])[H:14])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],16.407969440580096
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4][O:6][H:16])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],91.7588301424311
[C:1]([C:2][C@@:4]([C:3]([H:9])([H:10])[H:11])([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8],8.120425749694398
[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],50.762047534521706
[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:15]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],24.5350395559624
[O:1]=[C:2]([C:7]([C:4](=[C:3]([H:10])[H:11])[C:5]([O:6][H:8])([H:12])[H:13])([H:14])[H:15])[H:9]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],66.9415171719361
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([O:4][H:14])([H:12])[H:13])[H:11])([H:8])[H:9].[N:5](=[C:6](/[O:7][H:10])[H:16])\[H:15],59.368406297427796
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[C:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],4.068480013556396
[O:1]=[C:2]([C:6](=[C+:5][C:4]#[C-:3])[H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],46.573666820459295
[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]1([H:12])[O:6]2>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],25.13563372906051
[C:1]([C:2](=[O:3])/[C:7](=[C:6](\[C:5](=[C:4]([H:12])[H:13])[H:14])[H:15])[H:17])([H:8])([H:9])[H:10].[H:11][H:16]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],61.517988743117115
[O+:1](=[C-:2][H:7])[C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],49.3298441909919
[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9].[N:2]#[C:3][H:10],105.913379791241
[C:1]([C:2]([C:4]([C:3]([H:9])([H:10])[H:11])([H:12])[H:13])=[O:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],99.6012914462862
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[H:10])[O+:4]=[C-:5][O:6][H:11])([H:7])([H:8])[H:9],76.8096595403862
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])/[C:6]1=[N:7]/[H:9]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],91.63256572207753
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:6]=[N:7][C:5]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],74.1874262963836
[C:1](=[C:2]([C:4]#[N:5])[H:9])([H:6])[H:8].[N:3]([H:7])([H:10])[H:11]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],59.40301176695329
[C-:6]#[O+:7].[C:1]([C:2]([C:3]([C:4][O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],10.777005360166697
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([N:7]=[C:6]=[C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],104.246266514098
[O:1]([C:2](=[N:3][N:4]([H:8])[H:9])[N+:6]#[C-:5])[H:7]>>[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7],43.32627242536151
